US06251947B1
Step E: Preparation of N-[3-(3-chloro-5-cyano-2-methyl-1H-pyrrol-1-yl)-1-methylpropyl]-2-cyano-3,4,4-trimethylpentanamide
A solution of 0.54 g (3.5 mmol) 2-cyano-3,4,4-trimethylpentanoic acid in 15 mL thionyl chloride was heated at reflux for 30 min. The thionyl chloride was stripped and the residue was dried in vacuo. The residue was then dissolved in 20 mL methylene chloride and a solution of 0.66 g (3.13 mmol) of 1-(3-aminobutyl)-4-chloro-5-methyl-1H-pyrrole-2-carbonitrile and 0.59 mL (4.2 mmol) triethylamine was added dropwise. The mixture was stirred at room temperature overnight. Solvent was stripped and the residue was taken up in ethyl acetate which was washed with water and brine. Drying (MgSO4) and removal of solvent gave an oil which was chromatographed (40% ether in hexanes) on silica gel to give the title compound as a mixture of diastereomers, mp 111-118° C. 1H NMR (CDCl3) δ 1.0 (m, 3H), 1.2-1.3 (2 m, 6H), 1.4 (d, 1H), 1.6 (m, 2H), 1.9 (m, 2H), 2.2 (m, 3H), 4.1 (2m, 2H), 5.7 (m, 1H), 6.65 (2s, 1H).

reactant | 2-cyano-3,4,4-trimethylpentanoic acid | 3.5 mmol, 0.54 g | C(#N)C(C(=O)O)C(C(C)(C)C)C | C9H15NO2
reactant | 1-(3-aminobutyl)-4-chloro-5-methyl-1H-pyrrole-2-carbonitrile | 3.13 mmol, 0.66 g | NC(CCN1C(=CC(=C1C)Cl)C#N)C | C10H14ClN3
reactant | triethylamine | 4.2 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(3-chloro-5-cyano-2-methyl-1H-pyrrol-1-yl)-1-methylpropyl]-2-cyano-3,4,4-trimethylpentanamide | ClC1=C(N(C(=C1)C#N)CCC(C)NC(C(C(C(C)(C)C)C)C#N)=O)C | C19H27ClN4O
